* Z:\home\dl10yr\Dropbox\Analog_Design_ML\opamp\template\opamp-ml.asc
M1 N003 N004 vss vss NMOS l=0.2u w=10.989071595504488u m=1
M3 N001 vinm N003 N003 NMOS l=0.2u w=14.354996637000097u m=1
M4 vout N004 vss vss NMOS l=0.2u w=142.18835722916404u m=1
M2 N002 vinp N003 N003 NMOS l=0.2u w=14.354996637000097u m=1
M5 vdd N001 N002 vdd PMOS l=0.2u w=7.731263668488042u m=1
M6 vdd N001 N001 vdd PMOS l=0.2u w=7.731263668488042u m=1
M7 vdd N002 vout NC_01 PMOS l=0.2u w=198.43349227660607u m=1
C1 N002 vout 0.3p
M8 N004 N004 vss vss NMOS l=0.2u w=7.8402726633556945u m=1
R1 vdd N004 898.1905560923415k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\dl10yr\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include tsmc018.lib
.backanno
.end
