* Z:\home\dl10yr\Dropbox\Analog_Design_ML\opamp\template\test-OpAmp-CMRR.asc
V1 VDD 0 {half}
VIN N001 0 AC 1 0
R1 Vod N003 1T
V3 0 VSS {half}
C1 N003 0 1m
R2 Vod 0 20k
C2 N001 N002 1m
R3 Voc N002 1T
R4 Voc 0 20k
XX3 N001 N003 VDD VSS Vod opamp-ml params: opamp-ML
XX4 N001 N002 VDD VSS Voc opamp-ml params: opamp-ML

* block symbol definitions
.subckt opamp-ml vinp vinm vdd vss vout
M1 N003 N004 vss vss NMOS l=0.2u w=3.4u m=1
M3 N001 vinm N003 N003 NMOS l=0.2u w=4.6u m=1
M4 vout N004 vss vss NMOS l=0.2u w=20.4u m=1
M2 N002 vinp N003 N003 NMOS l=0.2u w=4.6u m=1
M5 vdd N001 N002 vdd PMOS l=0.2u w=3.0u m=1
M6 vdd N001 N001 vdd PMOS l=0.2u w=3.0u m=1
M7 vdd N002 vout NC_01 PMOS l=0.2u w=37.8u m=1
C1 N002 vout 0.3p
M8 N004 N004 vss vss NMOS l=0.2u w=1.7u m=1
R1 vdd N004 100k
.include tsmc018.lib
.ends opamp-ml

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\dl10yr\My Documents\LTspiceXVII\lib\cmp\standard.mos
.param half=1.5
.ac dec 100 0.1 10G
.meas ac cmrr max mag(V(vod))/mag(V(voc)) from=0.1 to=10G
.backanno
.end
