* Z:\home\dl10yr\Dropbox\Analog_Design_ML\opamp\template\test-OpAmp-DCgain.asc
V1 N001 0 {half}
V2 N002 0 AC 1
R1 OUTPUT N003 1T
V3 0 N004 {half}
R2 OUTPUT 0 20k
C1 N003 0 1m
XX1 N002 N003 N001 N004 OUTPUT opamp-ml params: opamp-ML

* block symbol definitions
.subckt opamp-ml vinp vinm vdd vss vout
M1 N003 N004 vss vss NMOS l=0.2u w=3.4u m=1
M3 N001 vinm N003 N003 NMOS l=0.2u w=4.6u m=1
M4 vout N004 vss vss NMOS l=0.2u w=20.4u m=1
M2 N002 vinp N003 N003 NMOS l=0.2u w=4.6u m=1
M5 vdd N001 N002 vdd PMOS l=0.2u w=3.0u m=1
M6 vdd N001 N001 vdd PMOS l=0.2u w=3.0u m=1
M7 vdd N002 vout NC_01 PMOS l=0.2u w=37.8u m=1
C1 N002 vout 0.3p
M8 N004 N004 vss vss NMOS l=0.2u w=1.7u m=1
R1 vdd N004 100k
.include tsmc018.lib
.ends opamp-ml

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\dl10yr\My Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 100 0.1 10G
.meas ac dcgain find v(output) at 0.1
.meas AC fc FIND v(output) when mag(V(OUTPUT))=1 fall=1
.meas ac gain find mag(v(output)) at 0.1
.meas ac fcgs find v(output) when mag(v(output))=gain/sqrt(2) fall=1
.param half=1.5
.backanno
.end
