* Z:\home\dl10yr\Dropbox\Analog_Design_ML\opamp\template\test-OpAmp-r0.asc
V1 VDD 0 1.5
VIN N001 0
R1 OUTPUT N002 10k
V3 0 VSS 1.5
R2 N002 0 10k
XX2 N001 N002 VDD VSS OUTPUT opamp-ml params: opamp-ML

* block symbol definitions
.subckt opamp-ml vinp vinm vdd vss vout
M1 N003 vdd vss vss NMOS l=1u w=1u m=2
M3 N001 vinp N003 N003 NMOS l=1u w=1u m=16
M4 vout vdd vss vss NMOS l=1u w=1u m=40
M2 N002 vinm N003 N003 NMOS l=1u w=1u m=16
M5 vdd N001 N002 vdd PMOS l=1u w=1u m=2
M6 vdd N001 N001 vdd PMOS l=1u w=1u m=2
M7 vdd N002 vout NC_01 PMOS l=1u w=1u m=80
C1 N002 vout 0.5p
M8 vdd vdd vss vss NMOS l=1u w=1u m=2
.include tsmc018.lib
.ends opamp-ml

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\dl10yr\My Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
