* Z:\home\dl10yr\Dropbox\Analog_Design_ML\opamp\template\test-OpAmp-P-SR.asc
VDD VDD 0 {half}
R1 os N001 10k
VSS 0 VSS {half}
R2 N001 0 10k
VIN1 N002 0 PULSE({-vp} {vp} 100n {vp*0.01n} {vp*0.01n} 300u 400u 1)
R3 out2 N003 10k
R4 N003 0 10k
VIN2 N004 0 PULSE({vp} {-vp} 100n {vp*0.01n} {vp*0.01n} 300u 400u 1)
R5 out1 N005 10k
R6 N005 0 10k
XX2 0 N001 VDD VSS os opamp-ml params: opamp-ML
XX3 N002 N003 VDD VSS out2 opamp-ml params: opamp-ML
XX4 N004 N005 VDD VSS out1 opamp-ml params: opamp-ML

* block symbol definitions
.subckt opamp-ml vinp vinm vdd vss vout
M1 N003 N004 vss vss NMOS l=0.2u w=3.4u m=1
M3 N001 vinm N003 N003 NMOS l=0.2u w=4.6u m=1
M4 vout N004 vss vss NMOS l=0.2u w=20.4u m=1
M2 N002 vinp N003 N003 NMOS l=0.2u w=4.6u m=1
M5 vdd N001 N002 vdd PMOS l=0.2u w=3.0u m=1
M6 vdd N001 N001 vdd PMOS l=0.2u w=3.0u m=1
M7 vdd N002 vout NC_01 PMOS l=0.2u w=37.8u m=1
C1 N002 vout 0.3p
M8 N004 N004 vss vss NMOS l=0.2u w=1.7u m=1
R1 vdd N004 100k
.include tsmc018.lib
.ends opamp-ml

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\dl10yr\My Documents\LTspiceXVII\lib\cmp\standard.mos
.param half=1.5
.tran 0 200u 0
.meas tran vps find V(out1)-V(os) at=0
.meas tran vpt find V(out1)-V(os) at=200u
.meas tran vns find V(out2)-V(os) at=0
.meas tran vnt find V(out2)-V(os) at=200u
.meas tran srr1 deriv V(out1)-V(os) when (V(out1)-V(os))=0.9*vps
.meas tran srr2 deriv V(out1)-V(os) when (V(out1)-V(os))=0
.meas tran srr3 deriv V(out1)-V(os) when (V(out1)-V(os))=0.9*vpt
.meas tran srr param=(srr1+srr2+srr3)/3
.meas tran srf1 deriv V(out2)-V(os) when (V(out2)-V(os))=0.9*vns
.meas tran srf2 deriv V(out2)-V(os) when (V(out2)-V(os))=0
.meas tran srf3 deriv V(out2)-V(os) when (V(out2)-V(os))=0.9*vnt
.meas tran srf param=(srf1+srf2+srf3)/3
.meas tran sr-value param=min(abs(srr),abs(srf))
.backanno
.end
