* Z:\home\dl10yr\Dropbox\Analog_Design_ML\opamp\template\test-OpAmp-THD.asc
V1 VDD 0 PULSE(0 {half} 0 0.1n 0.1n 1.5015 2.002)
VIN N001 0 SINE(0 2.5m 100 100m)
R1 Vout N002 10k
V3 0 VSS PULSE(0 {half} 0 0.1N 0.1N 1.5015 2.002)
R2 N002 0 10k
XX1 N001 N002 VDD VSS Vout opamp-ml params: opamp-ML

* block symbol definitions
.subckt opamp-ml vinp vinm vdd vss vout
M1 N003 N004 vss vss NMOS l=0.2u w=3.4u m=1
M3 N001 vinm N003 N003 NMOS l=0.2u w=4.6u m=1
M4 vout N004 vss vss NMOS l=0.2u w=20.4u m=1
M2 N002 vinp N003 N003 NMOS l=0.2u w=4.6u m=1
M5 vdd N001 N002 vdd PMOS l=0.2u w=3.0u m=1
M6 vdd N001 N001 vdd PMOS l=0.2u w=3.0u m=1
M7 vdd N002 vout NC_01 PMOS l=0.2u w=37.8u m=1
C1 N002 vout 0.3p
M8 N004 N004 vss vss NMOS l=0.2u w=1.7u m=1
R1 vdd N004 100k
.include tsmc018.lib
.ends opamp-ml

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\dl10yr\My Documents\LTspiceXVII\lib\cmp\standard.mos
.param half=1.5
.tran 0 1.001 {1.001-10m} 10n
.Four 100Hz V(Vout)
.backanno
.end
